US04277621
The procedure described in Example 2(b) is repeated, except that 68.5 g (0.5 mol) of 3,3-dimethyl-12-isopropyl-1-aza-cyclododecene, 50 g of 37% hydrochloric acid, 54 g (0.5 mol) of benzylamine and 200 ml of water are used. After neutralisation with 22 g (0.55 mol) of solid sodium hydroxide,97 g (0.282 mol) of 2,2-dimethyl-11-isopropyl-11-amino-undecanal-benzylamine are obtained; yield 56.4% of theory.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-cyclododecene | 0.5 mol, 68.5 g | CC1(C=NC(CCCCCCCC1)C(C)C)C | C16H31N
reactant | hydrochloric acid | 50 g | Cl | ClH
reactant | benzylamine | 0.5 mol, 54 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2,2-dimethyl-11-isopropyl-11-amino-undecanal benzylamine | 0.282 mol, 97 g, yield 56.4% | CC(C=O)(CCCCCCCCC(N)C(C)C)C.C(C1=CC=CC=C1)N | InChI=1S/C16H33NO.C7H9N/c1-14(2)15(17)11-9-7-5-6-8-10-12-16(3,4)13-18;8-6-7-4-2-1-3-5-7/h13-15H,5-12,17H2,1-4H3;1-5H,6,8H2
